US05292760
8-Chloro-4,5-dihydro-2-ethyl-3-methyl-4-(3-methyl-2-thienyl)-3H-1,3-benzodiazepine
A stirred solution of 3.05 g of 2-amino-4-chloro-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine, 11.63 g of triethyl orthopropionate and 3.7 ml of glacial acetic acid, was refluxed for 8 hr and then concentrated at 80° C. The residue was washed with 10% hydrochloric acid, and the aqueous phase was washed with ether, basified with 10% sodium hydroxide solution and extracted with dichloromethane. The combined organic phases were dried over anhydrous sodium sulfate, filtered and concentrated. Purification was accomplished by preparative HPLC (Water's Associates Prep LC/System 500A, silica gel, eluted with methanol, flow rate of 200 ml/min, GOW-MAC Model 80-800 UV detector). The appropriate fractions were combined and concentrated to afford a solid. The solid was dissolved in ether and filtered. The filtrate was concentrated and the residue was triturated with ether to give 1.2 g of product, mp 94°-96° C.

reactant | 2-amino-4-chloro-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 3.05 g | NC1=C(C=CC(=C1)Cl)CC(NC)C=1SC=CC1C | C14H17ClN2S
reactant | triethyl orthopropionate | 11.63 g | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | acetic acid | 3.7 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 8-Chloro-4,5-dihydro-2-ethyl-3-methyl-4-(3-methyl-2-thienyl)-3H-1,3-benzodiazepine | 1.2 g | ClC1=CC2=C(CC(N(C(=N2)CC)C)C=2SC=CC2C)C=C1 | C17H19ClN2S
